US08624034B2
Step C) Compound IV: (2R)-4-(5-Fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoic acid
Potassium hydroxide (669 mg, 7.7 mmol) was added to a solution of ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate (691 mg, 1.55 mmol) in 2-methyltetrahydrofuran:water (2:1 22.5 mL) and the solution was stirred at 70° C. for 2 h. The reaction was diluted with 1 N aq NaOH (50 mL). The organics were separated and the aqueous layer was washed with EtOAc (2×50 mL), and acidified to a pH of 3 using 3 M aqueous HCl. The aqueous layer was extracted with EtOAc (3×60 mL), dried (MgSO4), filtered and concentrated to afford a yellow-white solid (290 mg, 44.8%). MS (LCMS) m/z 418.0. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.53 (s, 3H) 2.08-2.20 (m, 1H) 2.36-2.48 (m, 1H) 3.13 (s, 3H) 3.79-4.02 (m, 2H) 7.03 (d, J=6.05 Hz, 1H) 7.96 (d, J=4.29 Hz, 1H) 13.82 (br. s., 1H).

reactant | Potassium hydroxide | 7.7 mmol, 669 mg | [OH-].[K+]
reactant | ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 1.55 mmol, 691 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)I | C13H17FINO5S
solvent | 2-methyltetrahydrofuran water | 22.5 mL | CC1OCCC1.O
solvent | NaOH | 1 N, 50 mL | [OH-].[Na+]
product | (2R)-4-(5-Fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoic acid | 290 mg, 44.8% | FC=1C(=CC(N(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C)=O)I | C11H13FINO5S
